US06060484
A. 2,2-Diphenylethyl isocyanate
A suspension of triphosgene (0.78 g, 2.6 mmol) in 15 ml of CH2Cl2 was treated in small portions with 2,2-diphenylethylamine (1.54 g, 7.8 mmol) at 0° C., under N2. The reaction mixture was stirred for 30 minutes and filtered. The filtrate was then concentrated in vacuo to provide a yellow oil.

reactant | triphosgene | 2.6 mmol, 0.78 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 2,2-diphenylethylamine | 7.8 mmol, 1.54 g | C1(=CC=CC=C1)C(CN)C1=CC=CC=C1 | C14H15N
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | 2,2-Diphenylethyl isocyanate | C1(=CC=CC=C1)C(CN=C=O)C1=CC=CC=C1 | C15H13NO
